US09340546B2
Tert-butyl carbamate (211.3 mg, 1.804 mmol), sodium tert-butoxide (173.4 mg, 1.804 mmol), BrettPhos Pre-catalyst (143.7 mg, 0.1804 mmol) and BrettPhos (96.83 mg, 0.1804 mmol) were degassed by vacuum/nitrogen cycles (×5). A solution of 1-[[1-(3-chloro-5-fluoro-4-pyridyl)-4-piperidyl]sulfonyl]-4-methyl-piperazine (340 mg, 0.9022 mmol) in dry toluene (9.884 mL) was added and the resulting mixture was heated to 80° C. After 5 minutes at 80° C. the reaction was cooled to RT and partitioned between ethyl acetate and water. The combined organics was dried with MgSO4 and concentrated in vacuo to a yellow solid. The yellow solid was purified by column chromatography using 1% MeOH/DCM to elute side products and then 5-10% MeOH/DCM to elute product. Relevant fractions combined and concentrated in vacuo to yield a light yellow solid. It was dissolved in DCM (10 mL) followed by the addition of TFA (1.029 g, 695.3 μL, 9.022 mmol). The mixture was stirred at room temperature for 2 hours. The mixture was concentrated in vacuo to yield 5-fluoro-4-(4-((4-methylpiperazin-1-yl)sulfonyl)piperidin-1-yl)pyridin-3-amine as a light orange solid. MS (ES+) 358.1.

reactant | Tert-butyl carbamate | 1.804 mmol, 211.3 mg | C(N)(OC(C)(C)C)=O | C5H11NO2
reactant | sodium tert-butoxide | 1.804 mmol, 173.4 mg | CC(C)([O-])C.[Na+]
reactant | BrettPhos | 0.1804 mmol, 96.83 mg | CC(C)C1=CC(=C(C(=C1)C(C)C)C2=C(C=CC(=C2P(C3CCCCC3)C4CCCCC4)OC)OC)C(C)C | C35H53O2P
reactant | 1-[[1-(3-chloro-5-fluoro-4-pyridyl)-4-piperidyl]sulfonyl]-4-methyl-piperazine | 0.9022 mmol, 340 mg | ClC=1C=NC=C(C1N1CCC(CC1)S(=O)(=O)N1CCN(CC1)C)F | C15H22ClFN4O2S
reactant | TFA | 9.022 mmol, 695.3 μL, 1.029 g | C(=O)(C(F)(F)F)O | C2HF3O2
catalyst | BrettPhos | 0.1804 mmol, 143.7 mg | CC(C)C1=CC(=C(C(=C1)C(C)C)C2=C(C=CC(=C2P(C3CCCCC3)C4CCCCC4)OC)OC)C(C)C | C35H53O2P
solvent | toluene | 9.884 mL | C1(=CC=CC=C1)C | C7H8
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | 5-fluoro-4-(4-((4-methylpiperazin-1-yl)sulfonyl)piperidin-1-yl)pyridin-3-amine | FC=1C(=C(C=NC1)N)N1CCC(CC1)S(=O)(=O)N1CCN(CC1)C | C15H24FN5O2S
